US09353104B2
Step C: (2,6-dimethylpyridin-3-yl)methanamine (4)
The solution of 3-(chloromethyl)-2,6-dimethylpyridine (850 mg, 5.5 mmol) in ammonia solution (10 mL) was stirred at 90° C. for 2 hours and then concentrated to give the crude product which was used for next step directly without further purification. LCMS (ESI) m/z=137.1 (M+H)+.

reactant | 3-(chloromethyl)-2,6-dimethylpyridine | 5.5 mmol, 850 mg | ClCC=1C(=NC(=CC1)C)C | C8H10ClN
reactant | ammonia | 10 mL | N | H3N
product | (2,6-dimethylpyridin-3-yl)methanamine | CC1=NC(=CC=C1CN)C | C8H12N2
